**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT bdx34b 1 2 3
* Model generated on Jan 31, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 11.5248
D1 1 3 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.96093 N=0.999455 XTI=2.99945
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=9.95415e-13 BF=129.468 NF=1.11003 VAF=82.7894
+IKF=0.16855 ISE=1.64286e-12 NE=1.5874 BR=0.999389
+NR=0.998011 VAR=96.4238 IKR=0.0999945 ISC=1e-13
+NC=1.99945 RB=9.97431 IRB=0.199455 RBM=9.97424
+RE=0.103986 RC=0.997005 XTB=0.497049 XTI=2.99952 EG=1.11189
+CJE=1.57148e-10 VJE=2 MJE=2.3e-05 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.46924e-10
+VJC=0.95 MJC=0.244591 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=9.95415e-13 BF=129.468 NF=1.11003 VAF=82.7894
+IKF=0.16855 ISE=1.64286e-12 NE=1.5874 BR=0.999389
+NR=0.998011 VAR=96.4238 IKR=0.0999945 ISC=1e-13
+NC=1.99945 RB=9.97431 IRB=0.199455 RBM=9.97424
+RE=0.103986 RC=0.997005 XTB=0.497049 XTI=2.99952 EG=1.11189
+CJE=1.57148e-10 VJE=2 MJE=2.3e-05 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.244591 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
